US07452886B2
Preparation of 6-{4-[4-(2-dimethylamino-ethoxy)-phenyl]-piperidin-1-ylmethyl}-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
0.22 g of 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile, 0.23 g of dimethyl-[2-(4-piperidin-4-yl-phenoxy)-ethyl]-amine bishydrochloride and 0.5 g of potassium carbonate were stirred in 2 ml acetone at 25° C. for 2 hours. The mixture was extracted with ethyl acetate/water, dried over sodium sulfate and evaporated to driness. After chromatography on silicagel using CH2Cl2/MeOH=90:10 6-{4-[4-(2-dimethylamino-ethoxy)-phenyl]-piperidin-1-ylmethyl}-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile was obtained as yellow solid.

reactant | 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.22 g | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | dimethyl-[2-(4-piperidin-4-yl-phenoxy)-ethyl]-amine bishydrochloride | 0.23 g | Cl.Cl.CN(CCOC1=CC=C(C=C1)C1CCNCC1)C
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 6-{4-[4-(2-dimethylamino-ethoxy)-phenyl]-piperidin-1-ylmethyl}-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | CN(CCOC1=CC=C(C=C1)C1CCN(CC1)CC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C)C | C28H38N6O
